US08097628B2
(c) Title compound: 3-(Bromomethyl)-6-(trifluoromethyl)pyridazine
A mixture of 3-methyl-6-(trifluoromethyl)pyridazine (70 mg), N-bromosuccinimide (84 mg), azobisisobutyronitrile (14.1 mg), and CCl4 (3 ml) was heated under reflux for 2 days. The solvent was evaporated to dryness under vacuum. The residue obtained was purified by chromatography column on silica gel (AIT, Flashsmart BP-SUP, 20-40 μm) using a mixture of EtOAc/hexane as eluent to give 14 mg (14%) of the title compound along with 15.3 mg (11%) of the dibrominated derivative.

reactant | 3-methyl-6-(trifluoromethyl)pyridazine | 70 mg | CC=1N=NC(=CC1)C(F)(F)F | C6H5F3N2
reactant | N-bromosuccinimide | 84 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 14.1 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(Bromomethyl)-6-(trifluoromethyl)pyridazine | 14 mg, 14% | BrCC=1N=NC(=CC1)C(F)(F)F | C6H4BrF3N2
